US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(4-dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) and 2-iodopropane (0.17 mL) as starting materials, N-[(4-dimethylaminophenyl)methyl]-7-isopropoxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (35 mg) was obtained.

reactant | N-[(4-dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | 2-iodopropane | 0.17 mL | IC(C)C | C3H7I
product | N-[(4-dimethylaminophenyl)methyl]-7-isopropoxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 35 mg | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC(C)C)C1=CC=C(C=C1)C(C)C)C | C32H40N2O2
